US08236798B2
To the solution of 1,1-dioxo-isothiazolidine-3-carboxylic acid (97% pure; 1040 mg, 6.11 mmol) in 15 ml of DMF (bromomethyl)benzene (98% pure; 1.85 ml, 2660 mg, 15.27 mmol) and K2CO3 (2350 mg, 18.3 mmol) were added and the mixture stirred overnight at room temperature. Subsequently the reaction mixture was poured into water and extracted three times with MTBE. The combined organic layers were washed with brine, dried over MgSO4 and the solvent was removed under reduced pressure. Chromatography on silica gel using dichloromethane resulted in 2-Benzyl-1,1-dioxo-isothiazolidine-3-carboxylic acid benzyl ester (1000 mg, 2.9 mmol; yield: 47%; ESI-MS [M+H]+=346.1). Saponification to the corresponding carboxylate was achieved by stiffing overnight at room temperature in a solution of 20 ml ethanol and 2.46 mL of 2N NaOH, and subsequent warming to 50° C. for 2 h. Evaporation of the solvent followed by addition of water, extraction with ethyl acetate, subsequent removal of water under reduced pressure and treatment with isopropanol resulted in the isolation of the sodium salt of the title compound (880 mg; containing some NaOH) as a white amorphous powder.

reactant | 1,1-dioxo-isothiazolidine-3-carboxylic acid | 6.11 mmol, 1040 mg | O=S1(NC(CC1)C(=O)O)=O | C4H7NO4S
reactant | DMF (bromomethyl)benzene | 15.27 mmol, 15 ml, 2660 mg | CN(C)C=O.BrCC1=CC=CC=C1
reactant | K2CO3 | 18.3 mmol, 2350 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
product | 2-Benzyl-1,1-dioxo-isothiazolidine-3-carboxylic acid benzyl ester | 2.9 mmol, 1000 mg, yield: 47% | C(C1=CC=CC=C1)OC(=O)C1N(S(CC1)(=O)=O)CC1=CC=CC=C1 | C18H19NO4S
